US07786165B2
2-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]-N-methoxy-N-methylacetamide
To a solution of [4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetic acid (0.22 g, 0.49 mmol), N,O-dimethylhydroxylamine hydrochloride (72 mg, 0.74 mmol), triethylamine (0.12 mL, 0.86 mmol) and 1-hydroxybenzotriazole (98 mg, 0.64 mmol) in N,N-dimethylformamide (15 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (122 mg, 0.64 mmol) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:5-2:1) to give the title compound (160 mg, yield 66%) as a colorless oil.

reactant | [4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]acetic acid | 0.49 mmol, 0.22 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(OCC(=O)O)C=C1)C | C27H31NO5
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.74 mmol, 72 mg | Cl.CNOC
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.64 mmol, 98 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.64 mmol, 122 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenoxy]-N-methoxy-N-methylacetamide | 160 mg, yield 66% | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(OCC(=O)N(C)OC)C=C1)C | C29H36N2O5
